Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
Hematemesis 
 
Major Surgical or Invasive Procedure:
BATO ___
BATO ___

 
History of Present Illness:
Ms. ___ is a ___ female with a history of presumed ETOH 
cirrhosis who presented to ___ with persistent 
nausea and vomiting. Transferred to ___ for further evaluation 
for hematemesis and severe anemia with hgb 4.2.

Patient reports that her symptoms have been present over the 
past five days. Reports consistent vomiting passing blood clots. 
Reports diaphoresis and lightheadedness. No fevers. She 
sustained a fall on ___ and landed on her right hip while 
walking to the bathroom with her husband. On presentation to 
___ blood pressures were low with SBP 80-90s. Abdominal 
CT scan was obtained which was within normal limits. She was 
admitted and GI was consulted. Underwent upper EGD that 
demonstrated isolated varices with stigmata of recent bleed. 
Large amount of blood of aspirated. No evidence of active 
bleeding at the time of endoscopy. No esophageal varices noted. 
Started on empiric levofloxacin given upper GI bleed. Other labs 
notable for INR 1.69, PTT 37, Cr 1.8. She was transfused in 
total 6units of PRBCs and 2 units of FFP. She was also started 
on octreotide gtt and protonix gtt, and given vit k 10IV x 1. On 
transfer her SBP dropped into the ___, and she was started on 
peripheral levophed.

On arrival to the MICU, the patients vitals were 98.5 89 97/55 
100%RA.

Overall she was reporting feeling much improved. Denies 
shortness of breath, chest pain. Had bloody bowel movement prior 
to transfer and last emesis a few hours prior to transfer. No 
abdominal pain. 

Review of systems:
(+) Per HPI
(-) Denies fever, chills, 

 
Past Medical History:
Hypertension
Frequent UTIs
NAFLD
Left thyroidectomy ___
Laminectomy x 2
Bladder suspension
Hx of alcoholic hepatitis and likely ETOH cirrhosis requiring 
prolonged hospitalization in ___
 
Social History:
___
Family History:
No known family hx of liver disease
 
Physical Exam:
ADMISSION PHYSICAL EXAM
=======================
GENERAL: Alert, oriented, no acute distress
HEENT: Sclera with mild icterus, dry MM, oropharynx clear
NECK: supple, JVP not elevated, no LAD
LUNGS: Clear to auscultation bilaterally, no wheezes, rales, 
rhonchi
CV: Regular rate and rhythm, normal S1 S2, no appreciable 
murmurs
ABD: soft, protuberant abdomen, non-tender, bowel sounds 
present, no appreciable hepatomegaly
EXT: Warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
edema 
SKIN: No lesions.
NEURO: A&O x3. CN II-XII intact. Sensation, strength intact. 
ACCESS: PIVs

DISCHARGE PHYSICAL EXAM
=======================
VS: Tm 98.8 119/76(94-119/61-76) 70(63-81) 18 9*% RA
GENERAL: Alert, oriented obese Caucasian female sitting up in 
bed, in no acute distress.  Already eaten most of breakfast 
prior to arrival.
HEENT: Anicteric sclerae.  
NECK: R IJ removal site clean and dry, slightly open but without 
discharge or surrounding erythema.
LUNGS: Clear to auscultation bilaterally, no wheezes, rales, 
rhonchi
CV: Regular rate and rhythm, normal S1 S2, soft ___ mid-systolic 
murmur best appreciated in LUSB consistent with possible flow 
murmur
ABD: Normoactive bowel sounds.  Abdomen is soft, minimally 
tender to palpation in ___ area and right lower 
quadrant.  No rebound or guarding. No palpable warmth.
EXT: Warm, well perfused, 2+ pulses, 1+ pitting edema to the 
knees bilaterally; pneumoboots in place 
NEURO: A&O x3. No asterixis.  
 
Pertinent Results:
LABS ON ADMISSION 
==================
___ 07:25PM BLOOD WBC-12.1* RBC-2.60* Hgb-7.8* Hct-23.1* 
MCV-89 MCH-30.0 MCHC-33.8 RDW-16.6* RDWSD-49.1* Plt Ct-87*
___ 07:25PM BLOOD Neuts-64.1 Lymphs-15.7* Monos-19.1* 
Eos-0.2* Baso-0.2 Im ___ AbsNeut-7.74* AbsLymp-1.90 
AbsMono-2.30* AbsEos-0.03* AbsBaso-0.02
___ 07:25PM BLOOD ___ PTT-30.2 ___
___ 07:25PM BLOOD Glucose-94 UreaN-57* Creat-1.8* Na-137 
K-3.7 Cl-100 HCO3-19* AnGap-22*
___ 07:25PM BLOOD ALT-7 AST-27 LD(LDH)-205 AlkPhos-63 
TotBili-4.2* DirBili-2.2* IndBili-2.0
___ 07:25PM BLOOD Albumin-2.4* Calcium-6.3* Phos-3.9 Mg-2.3
___ 07:52PM BLOOD Lactate-3.2*
___ 07:52PM BLOOD freeCa-0.87*

PERTINENT LABS 
==============
___ ALT 7 AST 27 LD 205 AP 63 TBili 4.2* DBili 2.2* 
IndBili-2.0
___ ALT 6 AST 26 AP 55 TBili 3.8*
___ ALT 7 AST 36 LD 203 AP 57 TBili 3.3*

___ 07:52PM BLOOD Lactate 3.2*
___ 06:15AM BLOOD Lactate 1.5
___ 05:43PM BLOOD Lactate 1.6
___ 10:20PM BLOOD Lactate 1.4

___  URINE CULTURE-FINAL (NEGATIVE)
___  Blood Culture, Routine-FINAL (NEGATIVE) 
___  Blood Culture, Routine-FINAL (NEGATIVE)

IMAGING 
=======
___ TTE:
The left atrium is elongated. No atrial septal defect is seen by 
2D or color Doppler. Late saline contrast is seen in left heart 
suggesting intrapulmonary shunting. The estimated right atrial 
pressure is at least 15 mmHg. Left ventricular wall thickness, 
cavity size and regional/global systolic function are normal 
(LVEF = 65%). Tissue Doppler imaging suggests an increased left 
ventricular filling pressure (PCWP>18mmHg). Right ventricular 
chamber size and free wall motion are normal. The diameters of 
aorta at the sinus, ascending and arch levels are normal. The 
aortic valve leaflets (3) appear structurally normal with good 
leaflet excursion and no aortic stenosis or aortic 
regurgitation. The mitral valve appears structurally normal with 
trivial mitral regurgitation. There is mild pulmonary artery 
systolic hypertension. There is no pericardial effusion.  

___ TIPS:
1. Scout ultrasound images demonstrate a patent paraumbilical 
vein. 
2. Pre-procedure splenic/portal venogram demonstrating a patent 
portal venous system. A splenorenal shunt is noted arising from 
the mid splenic vein. 
3. Post Amplatzer plug deployment venogram demonstrating 
appropriate near complete occlusion of the splenorenal shunt. 
4. Post procedure pressures: Right atrium:25 mmHg; Main Portal 
Vein: 36 mmHg; Splenic Vein: 42 mm Hg. 
  
Successful near complete occlusion of splenorenal shunt 
utilizing an Amplatzer plug via a paraumbilical vein approach. 

___ RUQUS:
1. Patent hepatic vasculature.  The direction of flow is 
reversed in the right portal vein. 
2. Multiple suspicious focal liver lesions are not fully 
characterized on this ultrasound in should be further assessed 
with MRI to exclude possible HCC. 
3. Splenomegaly, trace ascites, and a patent paraumbilical vein 
indicative of portal hypertension. 

CT Abd/Pelvis with contrast ___:
1. Normal caliber small and large bowel loops. No findings of 
bowel ischemia. 
2. Cirrhosis of the liver with findings of portal hypertension, 
including splenomegaly, gastroesophageal varices, large 
recanalized paraumbilical vein and large varices within the 
rectus sheath.  Interval placement of an Amplatzer plug within a 
splenorenal shunt since the prior outside CT from ___. 
3. Limited evaluation for focal hepatic lesions secondary to 
suboptimal timing on the arterial phase.  1.1 x 1.1 cm 
hypodensity in segment III, indeterminate.  Suggestion of other 
scattered subcentimeter hypodensities in the liver. Nonurgent 
contrast-enhanced MRI of the abdomen is recommended for further 
evaluation. 
4. Small amount of abdominopelvic ascites and mesenteric edema, 
new since the prior CT. 
5. Small right pleural effusion.  1.9 x 2.0 cm low density 
opacity in the right lower lobe abutting the diaphragmatic 
surface, new since the prior CT, likely representing pulmonary 
pseudotumor. 

___ HEPATIC VENOGRAPHY:
FINDINGS: 
 
1.  Ultrasound evaluation of the right common femoral vein 
demonstrates it to be patent, compressible and have flow on 
color evaluation.
2.  Left renal venogram demonstrates brisk flow of contrast into 
the inferior vena cava.
3.  Pre embolization digital subtracted venogram of the 
splenorenal shunt
(with and without balloon occlusion) demonstrates a membranous 
shelf
approximately 5 mm from the level of the outflow ostium.  
Additional digital subtracted venograms of the splenorenal shunt 
also demonstrated flow into the portal venous system via of few 
smaller inflow vessels likely from short gastric veins.
4.  Post plug assisted retrograde trans venous obliteration left 
renal
venogram demonstrates appropriate stasis within the splenorenal 
shunt without compromise (thrombus) in the patent left renal 
vein.
 
IMPRESSION:  
Successful plug assisted retrograde transvenous obliteration of 
a splenorenal shunt with the use of approximately 2 cc of 
sclerosant foam.

DISCHARGE LABS
==============
___ 05:24AM BLOOD WBC-9.4 RBC-3.04* Hgb-9.0* Hct-28.3* 
MCV-93 MCH-29.6 MCHC-31.8* RDW-16.3* RDWSD-54.8* Plt ___
___ 05:24AM BLOOD ___ PTT-36.4 ___
___ 05:24AM BLOOD Glucose-82 UreaN-11 Creat-1.0 Na-132* 
K-4.1 Cl-98 HCO3-22 AnGap-16
___ 05:24AM BLOOD ALT-7 AST-41* LD(LDH)-248 AlkPhos-104 
TotBili-2.4*
___ 05:24AM BLOOD Albumin-2.9* Calcium-8.2* Phos-3.7 Mg-1.7
 
Brief Hospital Course:
Ms. ___ is a ___ woman with a history of presumed ETOH 
cirrhosis c/b gastric varices and ascites, admitted as transfer 
from ___ with gastric variceal bleed. She had a brief 
MICU stay notable for BATO with interventional radiology on 
___, supportive transfusion. She had ___ which improved with 
resuscitation. BATO for portosystemic shunt occlusion was 
incomplete on ___ so she underwent second procedure for shunt 
embolization on ___ which was uncomplicated. She was 
monitored afterwards and had some minor abdominal pain which was 
improving at the time of discharge. She was medically stable 
with plan for follow up with Hepatology in ___s 
plans to make an appointment with a new primary care doctor to 
follow up her hospitalization.

#) Gastric variceal bleed: Patient presented with massive upper 
GI bleed with hgb nadir of 4.2. Transfused a total of 6 units of 
PRBcs, 2 units of FFP, and 1u platelets. Given vitamin K 10 IV x 
1. Due to gastric variceal bleed from EtOH cirrhosis. She 
underwent BATO x2, with definitive closure of splenorenal shunt 
on ___.  Hb 9.0 on day of discharge and stable without 
further transfusion needs during admission. She was discharged 
on BID PPI.

# Abdominal pain/Post-operative pain: CT Abd/Pelvis showed no 
post-op complications after first procedure. Pain improved 
throughout admission and continued to do so prior to discharge. 
No rebound or guarding to suggest worsening intra-abdominal 
process. She was discharged on tylenol with a few days supply of 
oxycodone PRN after second procedure.

# Lower extremity edema: Dependent edema in the thighs and +1 to 
the knees bilaterally.  Diuretic regimen decreased to 20mg PO 
lasix daily and spironolactone 25mg PO daily given blood 
pressures.

# ETOH cirrhosis: Patient with a hx of liver fibrosis and has 
been told in the past she has NAFLD. Had prior hospitalization 
in ___ for alcoholic hepatitis where it was mentioned that she 
likely had cirrhosis. Liver bx in the past with marked 
steatosis, marked subacute portal and lobular inflammation, 
portal/periportal/diffuse reticulin fibrosis without stainable 
hepatocellular iron. EGD with gastric varices from admission 
(performed at ___. Last drink was over new ___. Has 
had ascites in the past, but none during admission, and now 
variceal bleed, but no history of encephalopathy. Continued 
vitamin supplementation and bowel regimen to ensure regular BMs.

#) ETOH cirrhosis: MELD 23 on admission. No history of varices, 
SBP or encephalopathy. Tbili 4 on admission. Patient with a hx 
of liver fibrosis and has been told in the past she has NAFLD. 
Had prior hospitalization in ___ for alcoholic hepatitis where 
it was mentioned that she likely had cirrhosis. Liver bx in the 
past with marked steatosis, marked subacute portal and lobular 
inflammation, portal/periportal/diffuse reticulin fibrosis 
without stainable hepatocellular iron. EGD with gastric varices 
from admission. INR remained stable at 1.5, fibrinogen 159. She 
was treated with thiamine, folate, MVI when able to take PO. 
Nadolol 10mg QHS was started prior to discharge for variceal 
bleeding prophylaxis although EGD prior to BATO had no 
esophageal varices.

#) Acute kidney injury: Elevated Cr to 1.8 on arrival to ___, 
thought prerenal in the setting of acute hemorrhage. Given blood 
and PRN albumin with improvement in her kidney function to Cr 
1.0 prior to discharge.

#) Neuropathy: Possibly in the setting of chronic ETOH use in 
the past. Patient was on gabapentin 300mg po qhs at night which 
was held on admission, restarted prior to discharge.

#) Hyponatremia: 131 on presentation likely secondary to 
hypovolemic hyponatremia vs. cirrhosis. Resolved with colloid 
resuscitation. Had Na 132 prior to discharge and will need to 
follow up.

#) Lactic acidosis: Elevated to 3.2 likely due to hypo-perfusion 
and delayed clearing in the setting of liver disease. Resolved 
to 1.4 with colloid fluid resuscitation. 

#) Thrombocytopenia: 87 on admission. Likely secondary to 
chronic liver disease and consumption with bleeding. Improved 
with supportive care to 168 prior to discharge. 

#) Leukocytosis: Likely stress reaction in the setting of acute 
bleed. No other infectious symptoms.  Received a course of 
ceftriaxone for SBP prophylaxis. Infectious workup negative with 
UCx and BCx pending with no tappable pockets of ascites and no 
ascites on CT abdomen. White count normalized day two of 
admission with no signs of infection. 

TRANSITIONAL ISSUES
===================
[ ] Repeat labs in one week to be sent to Dr. ___, 
fax: ___
[ ] Discharge weight: 97.52 kg
[ ] Diuretic regimen at discharge: Furosemide 20mg PO QAM, 
Spironolactone 50mg PO QAM
[ ] Started on nadolol 10mg PO QHS for variceal bleeding 
prophylaxis
[ ] Patient will need repeat EGD in ___ weeks to be arranged 
with Dr. ___
[ ] Continue to encourage alcohol use cessation, relapse 
prevention
#CODE STATUS: Full, confirmed
#Contact:  ___ (Husband) - ___ 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Omeprazole 20 mg PO DAILY 
2. Gabapentin 300 mg PO QHS 
3. Vitamin D 3000 UNIT PO DAILY 
4. Ferrous Sulfate 325 mg PO DAILY 
5. Ascorbic Acid ___ mg PO BID 
6. Multivitamins 1 TAB PO DAILY 
7. Vitamin E 400 UNIT PO DAILY 
8. Spironolactone 25 mg PO DAILY 

 
Discharge Medications:
1.  Acetaminophen 500 mg PO Q6H:PRN Pain - Mild 
RX *acetaminophen 500 mg 1 tablet(s) by mouth Q6H:PRN Disp #*60 
Tablet Refills:*0 
2.  Docusate Sodium 100 mg PO BID 
RX *docusate sodium [Colace] 100 mg 1 capsule(s) by mouth 
BID:PRN Disp #*60 Capsule Refills:*0 
3.  FoLIC Acid 1 mg PO DAILY 
RX *folic acid 1 mg 1 tablet(s) by mouth daily Disp #*30 Tablet 
Refills:*0 
4.  Furosemide 20 mg PO DAILY Duration: 1 Dose 
RX *furosemide 20 mg 1 tablet(s) by mouth daily Disp #*30 Tablet 
Refills:*0 
5.  Nadolol 10 mg PO QHS 
RX *nadolol 20 mg 0.5 (One half) tablet(s) by mouth at bedtime 
Disp #*15 Tablet Refills:*0 
6.  OxyCODONE (Immediate Release) 5 mg PO Q8H:PRN Pain - 
Moderate Duration: 3 Days 
RX *oxycodone 5 mg 1 tablet(s) by mouth Q8H:PRN Disp #*10 Tablet 
Refills:*0 
7.  Pantoprazole 40 mg PO Q12H 
RX *pantoprazole 40 mg 1 tablet(s) by mouth every twelve (12) 
hours Disp #*60 Tablet Refills:*0 
8.  Polyethylene Glycol 17 g PO DAILY:PRN constipation 
RX *polyethylene glycol 3350 [Miralax] 17 gram/dose 17 grams by 
mouth DAILY:PRN Refills:*0 
9.  Senna 17.2 mg PO QHS 
RX *sennosides [senna] 8.6 mg 2 tablets by mouth QHS:PRN Disp 
#*60 Tablet Refills:*0 
10.  Spironolactone 50 mg PO DAILY 
RX *spironolactone 50 mg 1 tablet(s) by mouth daily Disp #*30 
Tablet Refills:*0 
11.  Ascorbic Acid ___ mg PO BID 
RX *ascorbic acid (vitamin C) 500 mg 1 tablet(s) by mouth twice 
a day Disp #*60 Tablet Refills:*0 
12.  Gabapentin 300 mg PO QHS 
RX *gabapentin 300 mg 1 capsule(s) by mouth at bedtime Disp #*30 
Capsule Refills:*0 
13.  Multivitamins 1 TAB PO DAILY 
RX *multivitamin  1 tablet(s) by mouth daily Disp #*30 Tablet 
Refills:*0 
14.  Vitamin D 3000 UNIT PO DAILY  
15.  Vitamin E 400 UNIT PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
PRIMARY DIAGNOSIS
=================
Hematemesis
Acute kidney injury
Abdominal pain
Leukocytosis

SECONDARY DIAGNOSIS
===================
Alcoholic cirrhosis
Thrombocytopenia

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

You came to the hospital because you were experiencing nausea 
and vomiting blood. You were found to have varices (dilated 
veins) in your stomach from your liver disease that were causing 
the bleeding. You were given blood and you had a procedure 
performed by the interventional radiologists to close down a 
vein in your abdomen to try to prevent further bleeding from 
your varices. 

Please continue to take your medications as directed and follow 
up with your doctors as directed.

It was a pleasure taking care of you, we wish you the best,
Your ___ Care Team
 
Followup Instructions:
___